* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.023148743893137765
Fd1_1 0 s1 V1 1.1574371946568884
Gr1_re_1_1 0 s1 x1_re_a1 0 508314065.99343735
Gr1_im_1_1 0 s1 x1_im_a1 0 1955280242.354765
Gr2_re_1_1 0 s1 x2_re_a1 0 41882312935.101456
Gr2_im_1_1 0 s1 x2_im_a1 0 -12436819857.434591
Gr3_re_1_1 0 s1 x3_re_a1 0 -12651652930.0431
Gr3_im_1_1 0 s1 x3_im_a1 0 -40167087739.316086
Gr4_1_1 0 s1 x4_a1 0 -130007731302.63261
Gr5_1_1 0 s1 x5_a1 0 97168274021.28253
Gr6_re_1_1 0 s1 x6_re_a1 0 -5245378314.461309
Gr6_im_1_1 0 s1 x6_im_a1 0 -25516136963.858395
Gr7_1_1 0 s1 x7_a1 0 -43685365018.10192
Gr8_1_1 0 s1 x8_a1 0 3299492438.6518397
Gr9_1_1 0 s1 x9_a1 0 55481322.13834062
Gr10_1_1 0 s1 x10_a1 0 -415972434.42062044
Gd1_2 0 s1 p2 0 0.015233589495930736
Fd1_2 0 s1 V2 0.7616794747965369
Gr1_re_1_2 0 s1 x1_re_a2 0 -909740433.1491617
Gr1_im_1_2 0 s1 x1_im_a2 0 -3526967999.981232
Gr2_re_1_2 0 s1 x2_re_a2 0 36101755692.19437
Gr2_im_1_2 0 s1 x2_im_a2 0 9953747273.657856
Gr3_re_1_2 0 s1 x3_re_a2 0 -10182963717.400976
Gr3_im_1_2 0 s1 x3_im_a2 0 -39267670829.50051
Gr4_1_2 0 s1 x4_a2 0 -111676976723.92502
Gr5_1_2 0 s1 x5_a2 0 97424433997.71295
Gr6_re_1_2 0 s1 x6_re_a2 0 -5247670420.28712
Gr6_im_1_2 0 s1 x6_im_a2 0 -25635401311.201424
Gr7_1_2 0 s1 x7_a2 0 -43891084221.313034
Gr8_1_2 0 s1 x8_a2 0 3319368018.7245965
Gr9_1_2 0 s1 x9_a2 0 56061144.214756735
Gr10_1_2 0 s1 x10_a2 0 -418591271.37651885
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 1.601919155564846e-10
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 20245543472.490356
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -20245543472.490356
Rp1_im_im_a1 0 x1_im_a1 1.601919155564846e-10
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 8.612400053107785e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 13213641415.918278
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -13213641415.918278
Rp2_im_im_a1 0 x2_im_a1 8.612400053107785e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.0730091155323881e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 8636061759.027063
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -8636061759.027063
Rp3_im_im_a1 0 x3_im_a1 1.0730091155323881e-10
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.1391900698224346e-10
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 2.3015424639043055e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 4.0196234289442713e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 992169532.6832905
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -992169532.6832905
Rp6_im_im_a1 0 x6_im_a1 4.0196234289442713e-10
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 4.718569150884209e-10
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 9.093719124757992e-10
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 3.441740413810969e-09
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 1.799075216785422e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.015233589495930736
Fd2_1 0 s2 V1 0.7616794747965369
Gr1_re_2_1 0 s2 x1_re_a1 0 -909740433.1491506
Gr1_im_2_1 0 s2 x1_im_a1 0 -3526967999.9812183
Gr2_re_2_1 0 s2 x2_re_a1 0 36101755692.1942
Gr2_im_2_1 0 s2 x2_im_a1 0 9953747273.657156
Gr3_re_2_1 0 s2 x3_re_a1 0 -10182963717.402151
Gr3_im_2_1 0 s2 x3_im_a1 0 -39267670829.49977
Gr4_2_1 0 s2 x4_a1 0 -111676976723.91856
Gr5_2_1 0 s2 x5_a1 0 97424433997.70284
Gr6_re_2_1 0 s2 x6_re_a1 0 -5247670420.287089
Gr6_im_2_1 0 s2 x6_im_a1 0 -25635401311.197517
Gr7_2_1 0 s2 x7_a1 0 -43891084221.3062
Gr8_2_1 0 s2 x8_a1 0 3319368018.724031
Gr9_2_1 0 s2 x9_a1 0 56061144.21475216
Gr10_2_1 0 s2 x10_a1 0 -418591271.3764613
Gd2_2 0 s2 p2 0 0.023089389928013924
Fd2_2 0 s2 V2 1.1544694964006963
Gr1_re_2_2 0 s2 x1_re_a2 0 486916007.69387347
Gr1_im_2_2 0 s2 x1_im_a2 0 1875026452.843217
Gr2_re_2_2 0 s2 x2_re_a2 0 41954833291.59992
Gr2_im_2_2 0 s2 x2_im_a2 0 -11880563397.4684
Gr3_re_2_2 0 s2 x3_re_a2 0 -12353180046.602018
Gr3_im_2_2 0 s2 x3_im_a2 0 -40625754896.178635
Gr4_2_2 0 s2 x4_a2 0 -131077128519.07365
Gr5_2_2 0 s2 x5_a2 0 98126674354.4354
Gr6_re_2_2 0 s2 x6_re_a2 0 -5299563441.048937
Gr6_im_2_2 0 s2 x6_im_a2 0 -25768558969.735985
Gr7_2_2 0 s2 x7_a2 0 -44110972001.27093
Gr8_2_2 0 s2 x8_a2 0 3329348371.1270022
Gr9_2_2 0 s2 x9_a2 0 55767471.70092962
Gr10_2_2 0 s2 x10_a2 0 -419076296.8330439
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 1.601919155564846e-10
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 20245543472.490356
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -20245543472.490356
Rp1_im_im_a2 0 x1_im_a2 1.601919155564846e-10
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 8.612400053107785e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 13213641415.918278
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -13213641415.918278
Rp2_im_im_a2 0 x2_im_a2 8.612400053107785e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.0730091155323881e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 8636061759.027063
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -8636061759.027063
Rp3_im_im_a2 0 x3_im_a2 1.0730091155323881e-10
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.1391900698224346e-10
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 2.3015424639043055e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 4.0196234289442713e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 992169532.6832905
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -992169532.6832905
Rp6_im_im_a2 0 x6_im_a2 4.0196234289442713e-10
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 4.718569150884209e-10
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 9.093719124757992e-10
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 3.441740413810969e-09
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 1.799075216785422e-09
.ENDS s_equivalent
